US05382688
1,1-Bis[4-(4-nitrobenzoyl)phenyl]-4-butylcyclohexane 45.40 g was dissolved in dichloromethane 660 ml, and a solution of trifluorosulfuric acid 36.9 g in dichloromethane 860 ml was added dropwise for one hour. Then, a solution of triethylsilane 47.38 g in dichloromethane 80 ml was added dropwise for 90 minutes. When 30 minutes passed after the addition was finished, the ice bath was removed and the solution was stirred for five hours at room temperature. The finish of the reaction was confirmed by liquid chromatography, and then the reaction solution was neutralized with an aqueous solution of sodium carbonate and washed with water. After dichloromethane was removed with a rotary evaporator, the residue was dissolved in toluene, the solution was treated with an alumina column, and the solvent was distilled away from the elute to obtain 1,1-bis[4-(4-nitrobenzyl)phenyl]-4-butylcyclohexane 38.0 g.

reactant | 1,1-Bis[4-(4-nitrobenzoyl)phenyl]-4-butylcyclohexane | 45.40 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C36H34N2O6
reactant | triethylsilane | 47.38 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 660 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 860 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1,1-bis[4-(4-nitrobenzyl)phenyl]-4-butylcyclohexane | 38.0 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)C2(CCC(CC2)CCCC)C2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C36H38N2O4
